US04985458
A mixture of 50.83 g (262 mM) of 4-iso-butylveratrole, 167.82 g (2.795 mM) of acetic acid and 502.18 g (2.917 mM) of 47% hydrobromic acid was heated under reflux for 19 hours with stirring. The reaction mixture was cooled to the room temperature added with 400 ml of water. The separated oil was extracted with ether. The ether solution was successively washed with 400 ml of water, 660 g of 5% aqueous sodium thiosulfate solution, and further twice with each 400 ml of water. The resulting solution was dried with anhydrous sodium sulfate, distilled off ether, and vacuum distilled to obtain 35.68 g (215 mM) of 4-iso-butylcatechol as yellow viscous liquid having a boiling point of 117°-120° C./ 2 mmHg.

reactant | 4-iso-butylveratrole | 262 mM, 50.83 g | C(C(C)C)C=1C=C(C(=CC1)OC)OC | C12H18O2
reactant | acetic acid | 2.795 mM, 167.82 g | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 2.917 mM, 502.18 g | Br | BrH
solvent | water | 400 ml | O | H2O
product | 4-iso-butylcatechol | 215 mM, 35.68 g | C(C(C)C)C=1C=C(C(O)=CC1)O | C10H14O2
